US04710510
7-Isopropyl-2-(4-methoxyphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
2.8 g (13.6 mmol) 5,6-diamino-3-isopropylindolin-2-one dihydrochloride were suspened in 10 ml. methylene chloride, mixed with 2.55 g. (15 mmol) p-methoxybenzoyl chloride and 4.55 g. (45 mmol) triethylamine added dropwise thereto at 25° C. The reaction mixture was stirred for 2 hours, evaporated and worked up with water. The residue was heated under reflux for about 24 hours in 75 ml. ethanol and 75 ml. concentrated hydrochloric acid, evaporated and rendered neutral with 2N ammonia solution. The residue filtered off with suction was recrystallised from ethyl acetate/methanol. There were obtained 2.1 g. (48.2% of theory) of the title compound; m.p. 326°-328° C.

reactant | 5,6-diamino-3-isopropylindolin-2-one dihydrochloride | 13.6 mmol, 2.8 g | Cl.Cl.NC=1C=C2C(C(NC2=CC1N)=O)C(C)C
reactant | p-methoxybenzoyl chloride | 15 mmol | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | triethylamine | 45 mmol | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Isopropyl-2-(4-methoxyphenyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | C(C)(C)C1C(NC2=CC3=C(N=C(N3)C3=CC=C(C=C3)OC)C=C21)=O | C19H19N3O2
